US07888364B2
3-(2-Bromoethoxy)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide (50 mg, 0.095 mmol) was dissolved in acetonitrile (1.0 ml) and DMF (1.0 ml), treated with potassium carbonate (16 mg, 0.12 mmol) and morpholine (10 gut, 0.11 mmol), and stirred 18 hours at room temperature. The reaction was heated to 50° C. for 8 hours, and then was allowed to stir 18 hours at room temperature. The reaction was quenched in water and extracted with ethyl acetate twice. The ethyl acetate extracts were washed with water once, brine once, dried with MgSO4, and evaporated to an oil which was purified by reverse phase HPLC to yield 30 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-morpholinoethoxy)benzamide. MS (Q1) 530 (M)+.

reactant | 3-(2-Bromoethoxy)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 0.095 mmol, 50 mg | BrCCOC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C22H20BrClN2O4S
reactant | potassium carbonate | 0.12 mmol, 16 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.11 mmol | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-morpholinoethoxy)benzamide | 30 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CS(=O)(=O)C)OCCN1CCOCC1)=O)C1=NC=CC=C1 | C26H28ClN3O5S
